Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:5][C:6]#[C:7][H:8].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-2.41993095466
[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.76955059773
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[C:13][H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],8.72908321546
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],3.6957384153699993
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.0317300314719
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:8],4.59131376511
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],8.67517434516
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10],5.18539188974
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-7.27232930657
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.70959485654
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.39603379353
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:9],1.7556582149200002
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.12330391495
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-0.32483232841
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:11],2.0796137806
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.9980602941400014
[H:1][C:2][O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.54744559834
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.69559627113
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-0.80584139911
[H:1][O:2][C:3]#[C:4][O:6][C:7]=[C:8]([H:9])[H:10].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.84430991171
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],5.2513376445
[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]#[C:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7][C:8]#[C:9][H:10],-4.30981851203
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][O:4],4.71099809735
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]1([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.09757375414
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.27876412054
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],4.20627535098
[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-2.81166193006
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],5.2319282842
